US07932247B2
N-[(3′-{[(3S)-3,4-dimethyl-1-piperazinyl]methyl}-6-fluoro-3-biphenylyl)methyl]-3-(4-piperidinylmethyl)benzamide
To a solution of 1,1-dimethylethyl 4-{[3-({[(3′-{[(3S)-3,4-dimethyl-1-piperazinyl]methyl}-6-fluoro-3-biphenylyl)methyl]amino}carbonyl)phenyl]methyl)-1-piperidinecarboxylate (250 mg, 0.40 mmol) in 5 mL of 1,4-dioxane was added 4M HCl in 1,4-diozane (5 mL). The mixture was stirred at room temperature for 30 min. After removal of the solvent, the crude was purified by Gilson reverse phase HPLC, eluting with acetonitrile/water/0.1% TFA (10/90 to 70/30, v/v, over 12 min), to give the title compound (200 mg, 95%). LC/MS: m/z, 529 (M+H), 1.27 min.

reactant | 1,1-dimethylethyl 4-{[3-({[(3′-{[(3S)-3,4-dimethyl-1-piperazinyl]methyl}-6-fluoro-3-biphenylyl)methyl]amino}carbonyl)phenyl]methyl)-1-piperidinecarboxylate | 0.40 mmol, 250 mg | C[C@H]1CN(CCN1C)CC=1C=C(C=CC1)C1=CC(=CC=C1F)CNC(=O)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C38H49FN4O3
reactant | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-[(3′-{[(3S)-3,4-dimethyl-1-piperazinyl]methyl}-6-fluoro-3-biphenylyl)methyl]-3-(4-piperidinylmethyl)benzamide | 200 mg, 95% | C[C@H]1CN(CCN1C)CC=1C=C(C=CC1)C1=CC(=CC=C1F)CNC(C1=CC(=CC=C1)CC1CCNCC1)=O | C33H41FN4O
